US07968571B2
To a solution of tert-butyl (1R)-1-benzyl-3-({2-chloro-6-[methyl(methylsulfonyl)amino]isonicotinoyl}amino)-1-methyl-2-oxopropylcarbamate (0.190 g, 0.35 mmol) in 2 mL toluene was added Burgess reagent (0.504 g, 2.12 mmol). The reaction was microwaved at 130° C. for 30 min. The clear yellow, top layer of the reaction mixture was concentrated in vacuo and purified by normal phase chromatography (0->50% EtOAc/hexanes) to give tert-butyl (1R)-1-(2-{2-chloro-6-[methyl(methylsulfonyl)amino]pyridin-4-yl}-1,3-oxazol-5-yl)-1-methyl-2-phenylethylcarbamate. NMR (CDCl3, 400 MHz) 7.86 (s, 1H); 7.69 (s, 1H); 7.28 (m, 3H); 7.04 (m, 3H); 3.45 (s, 3H); 3.13 (m, 4H); 1.60 (s, 3H); 1.42 (s, 9H); LC/MS [M+H]+=521.

reactant | tert-butyl (1R)-1-benzyl-3-({2-chloro-6-[methyl(methylsulfonyl)amino]isonicotinoyl}amino)-1-methyl-2-oxopropylcarbamate | 0.35 mmol, 0.190 g | C(C1=CC=CC=C1)[C@@](C(CNC(C1=CC(=NC(=C1)N(S(=O)(=O)C)C)Cl)=O)=O)(C)NC(OC(C)(C)C)=O | C24H31ClN4O6S
reactant | Burgess reagent | 2.12 mmol, 0.504 g | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (1R)-1-(2-{2-chloro-6-[methyl(methylsulfonyl)amino]pyridin-4-yl}-1,3-oxazol-5-yl)-1-methyl-2-phenylethylcarbamate | ClC1=NC(=CC(=C1)C=1OC(=CN1)[C@](CC1=CC=CC=C1)(C)NC(OC(C)(C)C)=O)N(S(=O)(=O)C)C | C24H29ClN4O5S
